US07459552B2
Synthesis of 2-[(2-methoxyethyl)oxy]-6-methyl-4-methylthio-3-nitropyridine
2-Chloro-6-methyl-4-methylthio-3-nitropyridine (2.80 g, 12.81 mmol) was dissolved in 2-methoxyethanol (40 mL). Potassium carbonate (1.90 g, 13.75 mmol) was added to the solution, followed by stirring for 5 hours at 60° C. The mixture was allowed to stand for cooling. Subsequently, the resultant mixture was extracted with ether-water, and the organic layer was washed with saturated brine, followed by drying sodium sulfate anhydrate and concentration under reduced pressure. The obtained residue was purified through silica gel column chromatography [(1) (eluent: n-hexane/ethyl acetate=4/1→n-hexane/ethyl acetate=2/1), (2) (eluent: chloroform)], to thereby yield 2-[(2-methoxyethyl)oxy]-6-methyl-4-methylthio-3-nitropyridine as a pale yellow oil (2.21 g, 67%).

reactant | 2-Chloro-6-methyl-4-methylthio-3-nitropyridine | 12.81 mmol, 2.80 g | ClC1=NC(=CC(=C1[N+](=O)[O-])SC)C | C7H7ClN2O2S
reactant | Potassium carbonate | 13.75 mmol, 1.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethanol | 40 mL | COCCO | C3H8O2
product | 2-[(2-methoxyethyl)oxy]-6-methyl-4-methylthio-3-nitropyridine | COCCOC1=NC(=CC(=C1[N+](=O)[O-])SC)C | C10H14N2O4S
